US08357693B2
To a suspension of 2-(3-nitrophenyl)quinazolin-4(3H)-one (5.7 g, 21.32 mmole) in thionyl chloride (70 mL) was added of DMF (2 mL). The reaction mixture was refluxed for 4.5 h. The reaction was then concentrated in vacuo and residue suspended in a mixture of CH2Cl2 (400 mL) and CHCl3 (500 mL). The organic layer was washed with water, saturated NaHCO3, water, brine, dried with Na2SO4 and concentrated in vacuo. The residue was dried under high vacuum to afford 4-chloro-2-(3-nitrophenyl)quinazoline as an off-white solid. (6.0 g, mmol, 97%).

reactant | 2-(3-nitrophenyl)quinazolin-4(3H)-one | 21.32 mmole, 5.7 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NC2=CC=CC=C2C(N1)=O | C14H9N3O3
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 70 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-2-(3-nitrophenyl)quinazoline | ClC1=NC(=NC2=CC=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-] | C14H8ClN3O2
